US07683076B2
Ethyl 3-(2,6dinitrophenyl)-2-hydroxypropanoate
Ethyl 3-(2,6-dinitrophenyl)-2-oxopropanoate (3.16 g, 11.2 mmol) is dissolved in dry methanol and cooled to 0° C. Sodium borohydride (0.13 g, 3.36 mmol) is added at 0° C. and stirring continued at 0° C. for 30 min. The mixture is warmed to room temperature and stirred for another 15 min. Acetone (10 ml) is added and subsequently of saturated aq. NH4Cl (5 ml) is added. The solvent is evaporated in vacuo, the remainder is dissolved in ethyl acetate and water, the organic layer is dried over magnesium sulfate, filtered and evaporated in vacuo. The crude product is purified with column chromatography on silica gel (eluent: cyclohexane/ethyl acetate, 1:1). Yield: 1.43 g (44%)

reactant | Ethyl 3-(2,6-dinitrophenyl)-2-oxopropanoate | 11.2 mmol, 3.16 g | [N+](=O)([O-])C1=C(C(=CC=C1)[N+](=O)[O-])CC(C(=O)OCC)=O | C11H10N2O7
reactant | Sodium borohydride | 3.36 mmol, 0.13 g | [BH4-].[Na+]
reactant | Acetone | 10 ml | CC(=O)C | C3H6O
reactant | NH4Cl | 5 ml | [NH4+].[Cl-]
solvent | methanol | CO | CH4O
product | Ethyl 3-(2,6dinitrophenyl)-2-hydroxypropanoate | [N+](=O)([O-])C1=C(C(=CC=C1)[N+](=O)[O-])CC(C(=O)OCC)O | C11H12N2O7
